US08802664B2
A solution of 2-((1-Methyl-piperidin-4-yloxy)-{3-[2-(2-trimethylsilanyl-ethoxymethyl)-2H-pyrazol-3-yl]-phenyl}-methyl)-benzothiazole (500 mg) in 5N hydrochloric acid (4 mL) is stirred overnight at room temperature. 30% sodium hydroxide solution is added to reach pH 10, and the reaction is diluted with water. The aqueous phase is extracted with ethyl acetate. The pooled organic extracts are dried over magnesium sulfate and concentrated under reduced pressure. The residue is purified by chromatography (gradient dichloromethane/methanol from 100/0 to 90/10) to afford 2-{(1-methylpiperidin-4-yloxy)[3-(2H-pyrazol-3-yl)phenyl]methyl}benzothiazole melting at 90° C.

reactant | 2-((1-Methyl-piperidin-4-yloxy)-{3-[2-(2-trimethylsilanyl-ethoxymethyl)-2H-pyrazol-3-yl]-phenyl}-methyl)-benzothiazole | 500 mg | CN1CCC(CC1)OC(C=1SC2=C(N1)C=CC=C2)C2=CC(=CC=C2)C=2N(N=CC2)COCC[Si](C)(C)C | C29H38N4O2SSi
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 5N, 4 mL | Cl | ClH
solvent | water | O | H2O
product | 2-{(1-methylpiperidin-4-yloxy)[3-(2H-pyrazol-3-yl)phenyl]methyl}benzothiazole | CN1CCC(CC1)OC(C=1SC2=C(N1)C=CC=C2)C2=CC(=CC=C2)C=2NN=CC2 | C23H24N4OS
